US08912217B1
Synthesis of Racemic-Methylphenidate Free Base
To a 200 mL beaker was charged 10.0 g (37.1 mmol) racemic-methylphenidate hydrochloride and 135 mL water. About 3.39 g (96.8 mmol) ammonium hydroxide was then added to bring the pH to approximately 9 upon which an oily semi-solid formed. The product was extracted with three 100 mL portions of ethyl acetate, the combined organic layers dried over sodium sulfate, filtered and concentrated under reduced pressure at about 40° C. to provide 8.2 g of a clear, colorless viscous oil (95% yield). The IR spectrum of the oil was consistent with the intended product.

reactant | methylphenidate hydrochloride | COC(=O)C(C=1C=CC=CC1)C2CCCCN2.Cl
reactant | ammonium hydroxide | 96.8 mmol, 3.39 g | [OH-].[NH4+]
solvent | water | 135 mL | O | H2O
product | Methylphenidate | 95% yield | COC(=O)C(C=1C=CC=CC1)C2CCCCN2 | C14H19NO2
